US07582543B2
Cadmium oxide (0.127 g, 1 mmol) and tetradecylcarboxylic acid (0.500 g) were reacted at 220° C. for 10 min, cooled to 90° C., then a cadmium tetradecylcarboxylate (precursor) was formed. Into said system, toluene (10 ml), trioctylphosphine oxide (3.866 g) and trioctylphosphine (3.7 g) were added. Then, a 0.05 M aqueous solution of sodium sulfide (10 ml) was added. After the system was reacted at 90° C. for 3 h, a clear yellow sol containing CdS nanoparticle was obtained. Said sol has the typical exciton absorption peak of CdS nanoparticle, can result in a quantum size effect and emit a fairly strong blue light under the irradiation of a UV lamp.

reactant | Cadmium oxide | 1 mmol, 0.127 g | [O-2].[Cd+2]
reactant | tetradecylcarboxylic acid | 0.500 g | C(CCCCCCCCCCCCC)C(=O)O | C15H30O2
product | cadmium tetradecylcarboxylate | C(CCCCCCCCCCCCC)C(=O)[O-].[Cd+2].C(CCCCCCCCCCCCC)C(=O)[O-] | InChI=1S/2C15H30O2.Cd/c2*1-2-3-4-5-6-7-8-9-10-11-12-13-14-15(16)17;/h2*2-14H2,1H3,(H,16,17);/q;;+2/p-2
